* D:\Github\LTSpice\LTS0002 - AD9834 output\Differential test.asc
V2 3V3 0 3.3
XU1 DIFF_OUT 0 N004 N002 3V3 OPA356
V1 DDS_IOUT 0 SINE(.328 .288 1000) AC .288 0 Rser=200
V3 DDS_IOUTB 0 SINE(.328 .288 1000 0 0 180) AC .288 180 Rser=200
C1 DDS_IOUT DDS_IOUTB 4pF
R1 DDS_IOUT N002 500R
R2 DDS_IOUTB N004 500R
R3 N002 DIFF_OUT 2.3k
R4 N004 0 720
R5 N004 3V3 2k
V4 0 -2V0 2.0
XU2 FILT_IN -2V0 N003 N001 3V3 OPA356
R6 N001 FILT_IN 200
R7 0 N001 1k
C2 DIFF_OUT N003 1µF
R8 N003 0 1meg
R9 FILT_IN FILT_OUT 10k
C3 FILT_OUT 0 10pf
R10 3V3 ADC 100k
R11 ADC 0 100k
C4 FILT_OUT ADC 100nF
.ac dec 1000 1 100000000
.lib OPA356.LIB
.backanno
.end
